US09340556B2
A mixture of 5-((4-methoxybenzyl)oxy)-4-oxo-4H-pyran-2-carboxylic acid (1.4627 g, 5.30 mmol) and methanamine (11.0 ml, 22.00 mmol) was stirred at room temperature for 20 h, The reaction was concentrated under reduced pressure, and the residue was dissolved in 15 mL of de-ionized water. The aqueous solution was cooled in an ice bath and treated dropwise with 2N hydrochloric acid (3.0 ml, 6.00 mmol). The resulting yellow solid was filtered, washed with water and acetone, and dried to give 5-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid (1.21 g, 4.18 mmol, 79% yield). LCMS: (M+H)+: 290.1.

reactant | 5-((4-methoxybenzyl)oxy)-4-oxo-4H-pyran-2-carboxylic acid | 5.30 mmol, 1.4627 g | COC1=CC=C(COC=2C(C=C(OC2)C(=O)O)=O)C=C1 | C14H12O6
reactant | methanamine | 22.00 mmol, 11.0 ml | CN | CH5N
reactant | hydrochloric acid | 6.00 mmol, 2N, 3.0 ml | Cl | ClH
product | 5-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydropyridine-2-carboxylic acid | 4.18 mmol, 1.21 g, 79% yield | COC1=CC=C(COC=2C(C=C(N(C2)C)C(=O)O)=O)C=C1 | C15H15NO5
